US07622449B2
Preparation of N-Methyl-N-prop-2-yn-1-ylmethanesulfonamide (i-4)
Methansulfonylchloride (1.12 mL, 14.5 mmol) was added to a stirred solution of N-methylpropargylamine (1.22 mL, 14.5 mmol) and dimethylaminopyridine (35 mg, 0.30 mmol) in pyridine (10 mL) at room temperature. After aging for approximately 15 h, the reaction mixture was poured into ethyl acetate and washed successively with 1N HCl and brine. The organic phase was dried (Na2SO4), filtered and concentrated in vacuo, to afford the title compound (i-4), which was used without further purification.

reactant | Methansulfonylchloride | 14.5 mmol, 1.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methylpropargylamine | 14.5 mmol, 1.22 mL | CNCC#C | C4H7N
reactant | dimethylaminopyridine | 0.30 mmol, 35 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-Methyl-N-prop-2-yn-1-ylmethanesulfonamide | CN(S(=O)(=O)C)CC#C | C5H9NO2S
